data/oMe_Silver.jsonl
{"reaction_id": "NR-107_1-c1ccccc1_2-S(=O)(=O)c1ccccc1_3-CC_4-C_5-CC_6-CC_7-C(C)CC","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(c1ccccc1)(S(=O)(=O)c1ccccc1)C(CC)(C)[N+](CC)(CC)C(C)CC","[OH-]"],"products_smiles": ["C(=C(CC)C)(c1ccccc1)S(=O)(=O)c1ccccc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(CC)C)(c1ccccc1)S(=O)(=O)c1ccccc1","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
{"reaction_id": "NR-107_1-C1CCCCC1_2-CC_3-c1ccccc1C_4-CS_5-CC_6-c1ccccc1C_7-CCCCC","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(C1CCCCC1)(CC)C(c1ccccc1C)(CS)[N+](CC)(c1ccccc1C)CCCCC","[OH-]"],"products_smiles": ["C(=C(c1ccccc1C)CS)(C1CCCCC1)CC"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(c1ccccc1C)CS)(C1CCCCC1)CC","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
{"reaction_id": "NR-237_1-c1ccccc1_2-c1ncccc1_3-c1ccc(C(F)(F)F)cc1_4-c1ccc(OC)cc1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["c1ccccc1N=[N+]=[N-]","P(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)"],"products_smiles": ["c1ccccc1N","O=P(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1N=[N+]=N[P+](c1ncccc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1N1N=NP1(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1N=P(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[NH+]=P(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1N[P](O)(c1ncccc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1N","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
